US07820671B2
To a solution of D-alanine (5 g, 56.1 mmol) in 1 N NaOH (152 mL, 152 mmol) at 0° C. is added a solution of MeOC(O)Cl (6.5 mL, 84.2 mmol) in diethyl ether (30 mL). The mixture is stirred in ice bath for 3 hours and then adjusted to pH 9 with 1 N NaOH. After stirring at room temperature for 1 hour, the mixture is washed with ether (3×50 mL), acidified to pH ˜2 with 5 N HCl, extracted with EtOAc (5×50 mL). The organic extract is washed with water, brine, and then dried (MgSO4). The solvent is removed to yield compound cxxxiv, N-methoxycarbonyl-D-alanine, as colorless oil (6.48 g, 79%).

reactant | D-alanine | 56.1 mmol, 5 g | N[C@H](C)C(=O)O | C3H7NO2
reactant | NaOH | 152 mmol, 1 N, 152 mL | [OH-].[Na+]
reactant | MeOC(O)Cl | 84.2 mmol, 6.5 mL | COC(=O)Cl | C2H3ClO2
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | N-methoxycarbonyl-D-alanine | COC(=O)N[C@H](C)C(=O)O | C5H9NO4
